US09102624B2
12a 1-(4-Cyano-benzyl)-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid
To a solution of 4-hydroxynicotinic acid (2.00 g, 14.4 mmol) in DMF (30 mL) is added sodium hydride (0.62 g, 55% dispersion in mineral oil, 14.2 mmol). After stirring for 10 min at room temperature, 4-cyanobenzyl bromide (2.88 g, 14.7 mmol) is added. After stirring for 2 h at room temperature, DMF (15 mL) is added and the reaction mixture is diluted with water. The formed precipitate is filtered off and dried. Yield: 2.57 g (56% of theory); ESI mass spectrum: [M+H]+=255; Retention time HPLC: 0.68 min (Z002—002).

reactant | 4-hydroxynicotinic acid | 14.4 mmol, 2.00 g | OC1=CC=NC=C1C(=O)O | C6H5NO3
reactant | sodium hydride | 14.2 mmol, 0.62 g | [H-].[Na+]
reactant | 4-cyanobenzyl bromide | 14.7 mmol, 2.88 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 1-(4-Cyano-benzyl)-4-oxo-1,4-dihydro-pyridine-3-carboxylic acid | C(#N)C1=CC=C(CN2C=C(C(C=C2)=O)C(=O)O)C=C1 | C14H10N2O3
